US07259175B2
3-{2-Methyl-4-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxymethyl]-phenyl}-propionic acid methyl ester
To a solution of 5-Iodomethyl-4-methyl-2-(4-trifluoromethyl-phenyl)-thiazole (0.14 g, 0.37 mmol) and 3-(4-Hydroxymethyl-2-methyl-phenyl)-propionic acid methyl ester (0.064 g, 0.31 mmol) in DMF (1 mL) is added sodium hydride (60% dispersion, 0.036 g, 1.50 mmol). The mixture is stirred at RT for 3 h. The reaction is quenched with water, and the mixture is extracted with EtOAc. The organics are dried with MgSO4 and concentrated. The crude material is purified by flash chromatography to yield the title compound (0.022 g, 16%).

reactant | 5-Iodomethyl-4-methyl-2-(4-trifluoromethyl-phenyl)-thiazole | 0.37 mmol, 0.14 g | ICC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C | C12H9F3INS
reactant | 3-(4-Hydroxymethyl-2-methyl-phenyl)-propionic acid methyl ester | 0.31 mmol, 0.064 g | COC(CCC1=C(C=C(C=C1)CO)C)=O | C12H16O3
reactant | sodium hydride | 1.50 mmol, 0.036 g | [H-].[Na+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 3-{2-Methyl-4-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxymethyl]-phenyl}-propionic acid methyl ester | 0.022 g, 16% | COC(CCC1=C(C=C(C=C1)COCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C)C)=O | C24H24F3NO3S
